US07713979B2
3-[2-(2-Chloro-6-fluoro-benzyl)-pent-4-enoyl]-oxazolidin-2-one
Using the procedure to synthesize Example 1, alkylation of 3-pent-4-enoyl-oxazolidin-2-one (Preparation 23) (5.0 g, 30.0 mmol) with 2-bromomethyl-1-chloro-3-fluoro-benzene affords 6.81 g (74%) of the title compound as a white solid.

reactant | 3-pent-4-enoyl-oxazolidin-2-one | 30.0 mmol, 5.0 g | C(CCC=C)(=O)N1C(OCC1)=O | C8H11NO3
reactant | 2-bromomethyl-1-chloro-3-fluoro-benzene | BrCC1=C(C=CC=C1F)Cl | C7H5BrClF
product | 3-[2-(2-Chloro-6-fluoro-benzyl)-pent-4-enoyl]-oxazolidin-2-one | 6.81 g, 74% | ClC1=C(CC(C(=O)N2C(OCC2)=O)CC=C)C(=CC=C1)F | C15H15ClFNO3
